US08034811B2
O-(2-Phenyl-thiazol-4-ylmethyl)-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 12, starting from N-hydroxyphthalimide and 4-chloromethyl-2-phenyl-thiazole hydrochloride.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-chloromethyl-2-phenyl-thiazole hydrochloride | Cl.ClCC=1N=C(SC1)C1=CC=CC=C1
product | O-(2-Phenyl-thiazol-4-ylmethyl)-hydroxylamine hydrochloride | Cl.C1(=CC=CC=C1)C=1SC=C(N1)CON | InChI=1S/C10H10N2OS.ClH/c11-13-6-9-7-14-10(12-9)8-4-2-1-3-5-8;/h1-5,7H,6,11H2;1H
